US09162992B2
N,N-dimethyl-N′-(2-n-propylamino-7-methyl-pyrrolo[2,3 d]pyrimidin-4-yl)-hydrazine (100 mg, 0.4 mmol) was dissolved in H2O (5 mL) and 0.5 M aqueous HCl solution (1 mL) and the solution was lyophilized to yield N,N-dimethyl-N′-(2-n-propylamino-7-methyl-pyrrolo[2,3-d]pyrimidin-4-yl)-hydrazine hydrochloride (110 mg) as a yellow oil. LCMS (ESI) m/z=249 (M+H)+. 1H NMR (500 MHz, MeOD) δ (ppm) 6.92 (d, J=4.0 Hz, 1H), 6.50 (d, J=3.0 Hz, 1H), 3.66 (s, 3H), 3.45 (t, J=7.5 Hz, 2H), 2.79 (s, 6H), 1.67-1.72 (m, 2H), 1.01-1.04 (m, 3H).

reactant | N,N-dimethyl-N′-(2-n-propylamino-7-methyl-pyrrolo[2,3 d]pyrimidin-4-yl)-hydrazine | 0.4 mmol, 100 mg | CN(NC=1C2=C(N=C(N1)NCCC)N(C=C2)C)C | C12H20N6
reactant | HCl | 0.5 M, 1 mL | Cl | ClH
solvent | H2O | 5 mL | O | H2O
product | N,N-dimethyl-N′-(2-n-propylamino-7-methyl-pyrrolo[2,3-d]pyrimidin-4-yl)-hydrazine hydrochloride | 110 mg | Cl.CN(NC=1C2=C(N=C(N1)NCCC)N(C=C2)C)C | InChI=1S/C12H20N6.ClH/c1-5-7-13-12-14-10(16-17(2)3)9-6-8-18(4)11(9)15-12;/h6,8H,5,7H2,1-4H3,(H2,13,14,15,16);1H
